US07727988B2
2,4-dioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-1,2,3,4-tetrahydro-5-pyrimidinecarbonitrile hydrochloride (E18)
To a solution of 2,4-dioxo-1-(4-oxo-butyl)-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile (Prep55, 70 mg, 0.34 mmol) in dichloroethane (5 mL), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 76 mg, 0.34 mmol) was added. The suspension was cooled at 0° C. and then AcOH (30 mg, 0.68 mmol) and NaBH(AcO)3 (79 mg, 0.38 mmol) were added and the mixture stirred at 0° C. for 4 hours. Water was added and the solvent was evaporated under vacuum, the residue re-dissolved in ethyl acetate and the mixture washed with aqueous saturated NaHCO3 solution. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography with DCM-MeOH—NH4OH (97-3-1) to give the title compound as a white solid (86 mg, 53% yield) as free base

reactant | 2,4-dioxo-1-(4-oxo-butyl)-1,2,3,4-tetrahydro-pyrimidine-5-carbonitrile | 0.34 mmol, 70 mg | O=C1N(C=C(C(N1)=O)C#N)CCCC=O | C9H9N3O3
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.34 mmol, 76 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | AcOH | 0.68 mmol, 30 mg | CC(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 0.38 mmol, 79 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | Water | O | H2O
product | 2,4-dioxo-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-1,2,3,4-tetrahydro-5-pyrimidinecarbonitrile hydrochloride | 86 mg, 53% yield | Cl.O=C1N(C=C(C(N1)=O)C#N)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C21H21F3N4O2.ClH/c22-21(23,24)16-5-3-15(4-6-16)20-9-17(20)12-27(13-20)7-1-2-8-28-11-14(10-25)18(29)26-19(28)30;/h3-6,11,17H,1-2,7-9,12-13H2,(H,26,29,30);1H/t17-,20+;/m0./s1
